US07459554B2
8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine:
1-(3-Benzyloxy-2-fluoro-phenyl)-8-chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine (500 mg, 1.2 mmole) in methylene chloride was placed in a Parr pressure reactor, cooled in ice salt bath and charged with a saturated solution of NH3 in 2-propanol (10 mL). The pressure reactor was heated at 125° C. overnight. The reaction was cooled to room temperature and the crude reaction mixture was evaporated and triturated with methylene chloride and filtered. The filtrate was evaporated to dryness and purified by silica-gel column chromatography [eluant CH2Cl2:hexane (70:30)] to afford the title compound (350 mg, 75%); FAB-MS: m/z 388.9 (M+H)+.

reactant | 1-(3-Benzyloxy-2-fluoro-phenyl)-8-chloro-3-cyclobutyl-imidazo[1,5-a]pyrazine | 1.2 mmole, 500 mg | C(C1=CC=CC=C1)OC=1C(=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CCC2)F | C23H19ClFN3O
reactant | NH3 | N | H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 8-Amino-1-(3-Benzyloxy-2-fluorophenyl)-3-cyclobutylimidazo[1,5-a]pyrazine | 350 mg, 75% | NC=1C=2N(C=CN1)C(=NC2C2=C(C(=CC=C2)OCC2=CC=CC=C2)F)C2CCC2 | C23H21FN4O
